US04866091
A mixture of 3-(2,4-difluorophenoxy)-4-nitrobenzoic acid (1.0 g) and sulfuric acid (3 drops) in ethanol (5 ml) was refluxed for 8 hours. Ethanol was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate, washed with a saturated aqueous solution of sodium bicarbonate, dried over magnesium sulfate, and concentrated to give pale brown needles of ethyl 3-(2,4-difluorophenoxy)-4-nitrobenzoate (1.1 g).

reactant | 3-(2,4-difluorophenoxy)-4-nitrobenzoic acid | 1.0 g | FC1=C(OC=2C=C(C(=O)O)C=CC2[N+](=O)[O-])C=CC(=C1)F | C13H7F2NO5
reactant | ethanol | 5 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | ethyl 3-(2,4-difluorophenoxy)-4-nitrobenzoate | 1.1 g | FC1=C(OC=2C=C(C(=O)OCC)C=CC2[N+](=O)[O-])C=CC(=C1)F | C15H11F2NO5
